US08211914B2
A mixture of 4-phenyl-thiophene-2-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (181 mg, 0.5 mmol) and 6-fluoronicotinic acid (141 mg, 1 mmol) in dioxane (3 mL) containing diisopropylethylamine (0.5 mL, 2.7 mmol) was heated in a microwave at 175° C. for 30 minutes. The mixture was evaporated and extracted with ethyl acetate (containing THF and methanol) and 0.2N hydrochloric acid. The organic layer was dried and evaporated. The residue was crystallized from methanol and ethyl acetate to give a pale yellow solid as 4-{4-[(4-phenyl-thiophene-2-carbonyl)-amino]-phenyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid (114 mg). LC-MS for C28H25N3O3S (in/e) calcd 483, obsd 484 (M+H). 1H-NMR is consistent with the desired structure.

reactant | 4-phenyl-thiophene-2-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.5 mmol, 181 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1SC=C(C1)C1=CC=CC=C1 | C22H22N2OS
reactant | 6-fluoronicotinic acid | 1 mmol, 141 mg | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | diisopropylethylamine | 2.7 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-{4-[(4-phenyl-thiophene-2-carbonyl)-amino]-phenyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid | 114 mg | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C1=NC=C(C=C1)C(=O)O | C28H25N3O3S
